US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-[2-(3,3-dimethyl-ureido)-ethoxy]-phenyl]-2′-(5-fluoro-2-methyl phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
At room temperature, a mixture of racemic (2′S,3S,4′R)-4′-[2-(2-amino-ethoxy)5-chloro-phenyl]-6-chloro-2′-(5-fluoro-2-methyl phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (40 mg, 0.076 mmol), dimethylcarbamoyl chloride (41 mg, 0.379 mmol) and triethylamine (38 mg, 0.379 mmol) was stirred 0.5 h. Then the mixture was filtered, concentrated and the residue was purified by Prep-HPLC to give the title compound as a white solid (10 mg).

reactant | racemic (2′S,3S,4′R)-4′-[2-(2-amino-ethoxy)5-chloro-phenyl]-6-chloro-2′-(5-fluoro-2-methyl phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.076 mmol, 40 mg | NCCOC1=C(C=C(C=C1)Cl)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)F)C)C(NC1=CC(=CC=C12)Cl)=O | C27H24Cl2FN3O3
reactant | dimethylcarbamoyl chloride | 0.379 mmol, 41 mg | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | 0.379 mmol, 38 mg | C(C)N(CC)CC | C6H15N
product | Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-[2-(3,3-dimethyl-ureido)-ethoxy]-phenyl]-2′-(5-fluoro-2-methyl phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 10 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OCCNC(=O)N(C)C)=O)C1=C(C=CC(=C1)F)C)=O | C30H29Cl2FN4O4
